US07169817B2
d) (R)-2-Amino-4-(4′-butyl-biphenyl-4-yl)-2-methyl-butan-1-ol
To a solution of (R)-2-tert-butoxycarbonylamino-4-(4′-butyl-biphenyl-4-yl)-2-methyl-butyric acid ethyl ester (22 mg) in diethylether is added lithium borohydride (20 mg). After stirring the suspension for 9 h at RT, ethyl acetate (5 ml) is added and the mixture is washed with water (2 ml), 1M citric acid (2×2 ml) and water (2 ml). The organic phase is dried over MgSO4, the solvent removed and the crude material purified by chromatography using diethyl ether/hexane (1/1) (Rf=0.31, MS: (ES+): 412.6 (M+H)+). The purified product is dissolved in dioxane containing 4M HCl and left at room temperature for 16 h. After lyophilisation, the desired compound is obtained as a white solid in the hydrochloride salt form (Rf=0.48 in DCM/methanol 100/15, MS: (ES+): 312.5 (M+H)+).

reactant | (R)-2-tert-butoxycarbonylamino-4-(4′-butyl-biphenyl-4-yl)-2-methyl-butyric acid ethyl ester | 22 mg | C(C)OC([C@](CCC1=CC=C(C=C1)C1=CC=C(C=C1)CCCC)(C)NC(=O)OC(C)(C)C)=O | C28H39NO4
reactant | lithium borohydride | 20 mg | [BH4-].[Li+]
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | diethylether | C(C)OCC | C4H10O
product | (R)-2-Amino-4-(4′-butyl-biphenyl-4-yl)-2-methyl-butan-1-ol | N[C@@](CO)(CCC1=CC=C(C=C1)C1=CC=C(C=C1)CCCC)C | C21H29NO
